Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abnormal MRI
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ right handed woman with a previous
smoking history who presents for evaluation of cerebellar
infarcts on a brain MRI.

Over ___ on ___ she was sitting at
the table with her family after having a couple of drinks when
she had sudden onset of loud buzzing in her left ear. She stood
up and felt unsteady, falling into things on her left. Her 
family
looked for a facial droop and didn't see one. She tried to touch
her nose and missed, touching her forehead (she thinks she tried
only with the right hand). She held her arms out in front of her
and they shook up and down but didn't drift downward - instead
her right arm drifted upward. She had no slurred speech. All of
her symptoms resolved in ___ minutes and she attributed them to
an inner ear problem since she had a recent URI with a middle 
ear
effusion. She went to bed. 

The following day while waking across the street to her
neighbor's house she began suddenly veering leftward. She sat
down to have a drink of water but that trouble coordinating
reaching for the glass (doesn't remember which hand). She tried
to stand up again but was unable to coordinate walking and would
have fallen without assistance. She describes feeling like she
was very drunk. Her speech was slurred. These symptoms lasted
___ minutes. She presented to urgent care who referred her to
the ED. A ___ was done and unremarkable. She was admitted
overnight, had carotid dopplers done (also unremarkable per the
patient) and saw a neurologist the following day who recommended
a brain MRI. Given that it was a holiday weekend, she was unable
to get an inpatient brain MRI and opted to have an outpatient
brain MRI rather than waiting until after the holiday for an
inpatient brain MRI. She was started on aspirin and has 
continued
to take this. She saw her PCP who ordered the brain MRI, which
showed bilateral cerebellar infarcts prompting referral back to
the ED. She also had an outpatient TTE with bubble, which did 
not
show a PFO or other stroke source. 

Currently, she has a mild frontal headache and some subtle
difficulty with talking but otherwise feels back to baseline. 
She
has chronic neck pain which she attributes to sitting at a
computer all day. She sees a chiropractor for this.

 
Past Medical History:
- Chronic Back Pain / Myofascial pain syndrome s/p trigger point
injections
- CERVICAL DYSPLASIA                                             


- ROSACEA    
- ___ in utero
- Recent GI illness during trip to ___ ___
- Recent prolonged URI ~___ c/b middle ear effusion
 
Social History:
___
Family History:
- Father- CABG ___
- Mother- multiple strokes (bleeding) starting at age ___
- Three paternal aunts with aneurysms, 2 have died from this 
 
Physical Exam:
On admission: 
EXAMINATION
Vitals:  98.2  81  153/84  18  100% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple. 
Pulmonary: breathing comfortably on RA
Abdomen: soft, nondistended
Extremities: no edema, warm
Skin: no rashes or lesions noted.
 
NEUROLOGIC EXAMINATION
-Mental Status: Alert, oriented.  Able to relate history without
difficulty.  Language is fluent with normal prosody.  There were
no paraphasic errors.  Pt. was able to name both high and low
frequency objects on the stroke card. Described the cookie jar
picture with detail.  Able to read without difficulty.  Speech
was not dysarthric.  Able to follow both midline and 
appendicular
commands.  There was no evidence of neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm bilaterally.  VFF to confrontation with 
finger
wiggling. Funduscopic exam revealed no papilledema.
III, IV, VI: EOMI without nystagmus.   
V: Facial sensation intact to light touch in all distributions 
VII: No facial droop with symmetric upper and lower facial
musculature bilaterally  
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: full strength in trapezii bilaterally.
XII: Tongue protrudes in midline with full ROM right and left.
Mildly clumsy tongue with right-left movements.
 
-Motor: No pronator drift bilaterally. No tremor noted. 
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  ___   5   5    5     5   5
R  ___   ___  ___   5   5    5     5   5
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   2    2     2     2+   2
R   2    2     2     2+   2
- Toes were downgoing bilaterally.

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense throughout. No extinction to DSS visually.

-Coordination: She is mildly clumsy with HKS bilaterally. Mild
dysmetria with touching great toe to examiner's finger
bilaterally. There was no dysmetria seen on FNF bilaterally.
Rapid alternating movements with normal and symmetric cadence 
and
speed. Finger tapping on the thumb crease was accurate and
rhythmic bilaterally. There was no overshoot with mirroring. No
rebound.

-Gait: Good initiation. Narrow-based, normal stride.  Able to
walk in tandem and on toes and heels without difficulty. Romberg
absent.
 
On discharge: exam unchanged
 
Pertinent Results:
___ 07:50PM   ___ PTT-31.9 ___
___ 07:50PM   NEUTS-65.4 ___ MONOS-6.3 EOS-2.2 
BASOS-0.5 IM ___ AbsNeut-7.02* AbsLymp-2.70 AbsMono-0.67 
AbsEos-0.24 AbsBaso-0.05
___ 07:50PM   WBC-10.7* RBC-3.92 HGB-12.0 HCT-36.7 MCV-94 
MCH-30.6 MCHC-32.7 RDW-12.5 RDWSD-43.1
___ 07:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:50PM   CALCIUM-9.6 PHOSPHATE-3.9 MAGNESIUM-2.0
___ 07:50PM   cTropnT-<0.01
___ 07:50PM   GLUCOSE-91 UREA N-14 CREAT-0.7 SODIUM-137 
POTASSIUM-3.9 CHLORIDE-99 TOTAL CO2-24 ANION GAP-18
___ 08:19PM   LACTATE-1.1

___ TTE:  No cardiac source of embolism identified. Normal 
left ventricular wall thickness, cavity size,a and 
regional/global systolic function. No significant valvular heart 
disease identified.

___ MRI/MRA brain:  
Multiple subacute appearing infarcts in both cerebellar 
hemispheres.  No signs of hemorrhage.  Most significant 
abnormalities on MRA of the head except for small size the 
vertebrobasilar system.  MRA of the neck can be obtained with 
fat-suppressed images for further assessment of vertebral 
arteries. 
 
___ CTA head/neck:
1. Dental amalgam streak artifact limits study. 
2. No evidence of acute intracranial hemorrhage. 
3. Bilateral cerebellar encephalomalacia related to chronic 
infarcts. 
4. No evidence of aneurysm greater than 3 mm,  dissection or  
significant 
luminal narrowing. 
5.  Please note MRI of the brain is more sensitive for the 
detection of acute infarct. 
  
___ TEE; Patent foramen ovale. No ___ thrombus. No aortic 
atheroma. 

___ ___: 1. No evidence of deep venous thrombosis in the 
right or left lower extremity veins. 
2. Left ___ cyst 

___ MRV Pelvis: No IVC or iliac venous thrombus.

 
 
Brief Hospital Course:
___ is a ___ woman admitted ___ for bilateral 
cerebellar infarcts. On exam, she has no dysmetria or cerebellar 
rebound. She still has some mild dysarthria that is only 
noticeable to people to who know her. CTA head/neck negative for 
vertebral dissection. Given her negative outpatient TTE and the 
fact that she is young and stroke distribution suggestive of 
embolic source, she will need a TEE to evaluate the cause of 
stroke. TEE showed patent foramen ovale. Bilateral lower 
extremity ultrasound was negative for DVT, as was MRV pelvis. 
She was discharged home with a 30 day holter monitor to evaluate 
for paroxysmal atrial fibrillation. She will follow up in clinic 
to discuss risks and benefits for PFO closure. 
Hypoercoagulability workup will also be completed as an 
outpatient. 

Stroke Workup:
- stroke risk factors: LDL 120, HbA1c 5.2%
- TTE: negative for PFO/clot
- MRI: bilateral cerebellar strokes
- CTA head/neck: no dissection
- TEE: +PFO
- ___: negative for DVT
- MRV pelvis: negative for DVT
- hypercoagulability workup: pending

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (X) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (X) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(X) Yes - () No  
4. LDL documented? (X) Yes (LDL = 120) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (X) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (X) No [reason 
(X) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (X) No  
9. Discharged on statin therapy? (X) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (X) Yes [Type: (X) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (X) N/A  
 
 
Medications on Admission:
- Azelex ___ % topical cream. apply to face at bedtime
- bupropion HCl SR 150 mg tablet,sustained-release daily
- propranolol 10 mg as needed for performance anxiety 
- Zyrtec
- Aspirin 81mg daily
 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3
2. Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth qpm Disp #*30 Tablet 
Refills:*3
3. BuPROPion (Sustained Release) 150 mg PO QAM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bilateral cerebellar stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neuro: no deficits

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of ataxia resulting from 
an ACUTE ISCHEMIC STROKE, a condition where a blood vessel 
providing oxygen and nutrients to the brain is blocked by a 
clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms. 
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- PFO
- high cholesterol
 
We are changing your medications as follows:  
- aspirin 81mg daily  
- atorvastatin 40mg daily

Please take your other medications as prescribed.  

Please follow-up with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  

It was a pleasure taking care of you, and we wish you the best!

Sincerely,
Your ___ Team

 
Followup Instructions:
___